US05256789
Diethyl azodicarboxylate (3.94 g) in dry toluene (10 ml) was added to a stirred solution of 2-(2,3-dihydro-1H-idan-1-ylidene) ethanol (2.41 g), N,O-diacetylhydroxylamine (1.85 g) and triphenylphosphine (5.94 g) in dry toluene (60 ml) at -78° C. under nitrogen atmosphere. The mixture was stirred at ambient temperature under nitrogen atmosphere for 30 minutes. The mixture was filtered and the residue was washed thoroughly with ethylacetate and hexane (1:1). The combined filtrate and washings were concentrated under reduced pressure. Chromatography on silica gel eluted with hexane-ethyl acetate (3:1) to give N-acetoxy-N-[2-(2,3-dihydro-1H-inden-1-ylidene) ethyl]acetamide (1.34 g). The diacetate was dissolved in methanol (10 ml), concentrated NH4OH was added, the mixture was stirred at ambient temperature for 1 hour and concentrated under reduced pressure. The resulting pale yellow oil was extracted with ethyl acetate and washed with brine. The solution was dried over MgSO4 and concentrated to give a pale yellow oil. Chromatography on silica gel eluted with hexane-ethyl acetate (1:1) followed by crystallization from isopropyl ether afforded the desired compound, a white solid (0.46 g).

reactant | Diethyl azodicarboxylate | 3.94 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N,O-diacetylhydroxylamine | 1.85 g | C(C)(=O)NOC(C)=O | C4H7NO3
reactant | triphenylphosphine | 5.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-acetoxy-N-[2-(2,3-dihydro-1H-inden-1-ylidene) ethyl]acetamide | 1.34 g | C(C)(=O)ON(C(C)=O)CC=C1CCC2=CC=CC=C12 | C15H17NO3
